US05011947
1,1-Dimethylethyl 6-[4,4-bis(4-fluorophenyl)-3-trifluoromethyl-1,3- butadienyl]-1,3-dioxane-4-acetate
Butyl lithium(1.2 mL of 2.5M solution, 3.0 mmol) was added to a solution of dimethyl [3,3-bis(4-fluorophenyl)-2-trifluoromethyl-2-propen-1-yl]phosphonate in 20 mL tetrahydrofuran at -70° C. followed by immediate addition of 1,1-dimethylethyl 6-formyl-2,2-dimethyl-1,3-dioxane-4-acetate (0.9 g, 3.6 mmol). The solution was allowed to gradually warm to room temperature and then stirred for 14 hours. The reaction was quenched with saturated ammonium chloride solution and the mixture extracted with diethyl ether. The extracts were dried and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 10% ethyl acetate in hexane to give 0.7 g of the title compound as an oil. MS(CI): m/e =538 for M+ of C29H31F4O4.

reactant | Butyl lithium | 3.0 mmol, 2.5M, 1.2 mL | C(CCC)[Li]
reactant | dimethyl [3,3-bis(4-fluorophenyl)-2-trifluoromethyl-2-propen-1-yl]phosphonate | FC1=CC=C(C=C1)C(=C(CP(OC)(OC)=O)C(F)(F)F)C1=CC=C(C=C1)F | C18H16F5O3P
reactant | 1,1-dimethylethyl 6-formyl-2,2-dimethyl-1,3-dioxane-4-acetate | 3.6 mmol, 0.9 g | C(=O)C1CC(OC(O1)(C)C)CC(=O)OC(C)(C)C | C13H22O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 6-[4,4-bis(4-fluorophenyl)-3-trifluoromethyl-1,3- butadienyl]-1,3-dioxane-4-acetate | 0.7 g | FC1=CC=C(C=C1)C(=C(C=CC1CC(OCO1)CC(=O)OC(C)(C)C)C(F)(F)F)C1=CC=C(C=C1)F | C27H27F5O4
